US07531553B2
Preparation XXI: (S)-2-(2-Chloro-5-nitro-phenoxymethyl)-1-methylpyrrolidine
To (S)-2-(2-chloro-5-nitro-phenoxymethyl)-pyrrolidine (4.82 g, 18.77 mmol) in 167 mL CH3CN at RT was added 37% aqueous formaldehyde (7.58 mL) then NaCNBH3 (1.887 g, 30.03 mmol). The reaction was stirred for 1 h, as the reaction pH was adjusted every 10 min to about 7 by adding small amounts of HOAc. The reaction was concentrated to small aqueous volume and dissolved into 2 N NaOH (aq) and Et2O. The layers were separated, and the organic layer was washed twice with 2 N NaOH then extracted twice with 1 N HCl (aq). The combined acidic aqueous layers were basified to pH>12 with solid NaOH and extracted 3× with EtOAc. The EtOAc layers were washed once with 2 N NaOH then once with a mixture of brine and 2 N NaOH, combined, dried over Na2SO4, filtered, and concentrated down to dryness, to yield the title compound.

reactant | (S)-2-(2-chloro-5-nitro-phenoxymethyl)-pyrrolidine | 18.77 mmol, 4.82 g | ClC1=C(OC[C@H]2NCCC2)C=C(C=C1)[N+](=O)[O-] | C11H13ClN2O3
reactant | formaldehyde | 7.58 mL | C=O | CH2O
reactant | NaCNBH3 | 30.03 mmol, 1.887 g | [BH3-]C#N.[Na+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | CH3CN | 167 mL | CC#N | C2H3N
product | (S)-2-(2-Chloro-5-nitro-phenoxymethyl)-1-methylpyrrolidine | ClC1=C(OC[C@H]2N(CCC2)C)C=C(C=C1)[N+](=O)[O-] | C12H15ClN2O3
